US07388061B2
(1) Synthesis of 3-ethyl-2,4-pentandione
To a three-neck flask in N2 atmosphere free of water and oxygen were successively added 0.066 mol potassium tert-butoxide and 150 mlTHF. Then to the resulting mixture was slowly added dropwise 0.06 mol acetylacetone with stirring while cooling the mixture with ice-bath. The reaction was allowed to continue at room temperature for 1 hour, then 0.07 mol iodoethane was added dropwise at room temperature. Next, the reaction was allowed to continue at room temperature for further 48 hours. After the reaction was finished, the solvent was removed by distillation. To the solid mixture was added saturated saline until the solid mixture was just completely dissolved. The solution was extracted with suitable amount of anhydrous ethyl ether for three times. The organic phase was combined and dried over anhydrous sodium sulfate. The solvent was removed to give 6.5 g product.

reactant | oxygen | O=O | O2
reactant | potassium tert-butoxide | 0.066 mol | CC(C)([O-])C.[K+]
reactant | acetylacetone | 0.06 mol | C(C)(=O)CC(C)=O | C5H8O2
reactant | iodoethane | 0.07 mol | ICC | C2H5I
solvent | N2 | N#N | N2
solvent | water | O | H2O
product | 3-ethyl-2,4-pentandione | 6.5 g | C(C)C(C(C)=O)C(C)=O | C7H12O2
